US08623889B2
isopropyl 7-(5-fluoro-2-methylphenyl)isoquinolin-3-ylcarbamate
A solution 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine (52.0 mg, 206 μmol) in pyridine (1.0 mL) was treated dropwise with a solution isopropyl chloroformate (210 μl, 1.0M, 210 μmol) at ambient temperature for 30 mins, and the mixture concentrated in vacuo. The residue was treated with saturated aqueous sodium bicarbonate and extracted twice with dichloromethane. The combined organic phases were washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to afford a residue that was purified by reverse phase HPLC (gradient of acetonitrile in water with 0.1% formic acid) to yield the title compound as a white powder (51.6 mg, 74%). 1H NMR (400 MHz, DMSO) δ 10.16 (s, 1H), 9.13 (s, 1H), 8.23 (s, 1H), 8.02 (s, 1H), 7.94 (d, J=8.6 Hz, 1H), 7.71 (dd, J=8.5, 1.6 Hz, 1H), 7.37 (dd, J=7, 6 Hz, 1H), 7.22-7.13 (m, 2H), 4.96 (septet, J=6.2 Hz, 1H), 2.25 (s, 3H), 1.29 (d, J=6.3 Hz, 6H). LCMS (Method E): RT=6.067 min, M+H+=339.1.

reactant | 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 206 μmol, 52.0 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | isopropyl chloroformate | 210 μmol, 1.0M, 210 μl | ClC(=O)OC(C)C | C4H7ClO2
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | isopropyl 7-(5-fluoro-2-methylphenyl)isoquinolin-3-ylcarbamate | 51.6 mg, 74% | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(OC(C)C)=O)C | C20H19FN2O2
